US09255090B2
A mixture of (3-chloro-4-methoxy-phenyl)-acetonitrile (320 mg, 1.76 mmol, 1.00 eq.), 1-bromo-2-chloro ethane (0.51 mL, 6.05 mmol, 3.40 eq.) and benzyltriethylammonium chloride (10 mg, 0.04 mmol, 0.02 eq.) was heated at 70° C. 50% aq. NaOH soln (1.5 mL) was slowly added and the reaction mixture was stirred at 70° C. for 18 hours. 1-Bromo-2-chloro ethane (0.26 mL, 3.03 mmol, 1.72 eq.) and a spatula tip of benzyltriethylammonium chloride were added again and the mixture was stirred at 70° C. for 3 hours. 50% aq. NaOH soln. (1.5 mL) and water (5 mL) were added and the mixture was then heated up to 130° C. and stirred at that temperature for 18 hours. The reaction mixture was allowed to cool to r.t., diluted with water (20 mL) and extracted once with AcOEt (20 mL) and once with DCM (20 mL). The basic aq. layer was acidified with conc. HCl (pH<1). The resulting precipitate was filtered and washed with 1M aq. HCl soln. The filter cake was then redissolved in DCM (20 mL) and washed with 1M HCl soln (2×20 mL) and sat. aq. NaCl soln (1×20 mL). The org. layer was dried over MgSO4, filtered, and concentrated in vacuo to give 1-(3-chloro-4-methoxy-phenyl)-cyclopropanecarboxylic acid as a yellow solid. The product was used without further purification.

reactant | (3-chloro-4-methoxy-phenyl)-acetonitrile | 1.76 mmol, 320 mg, 1.00 eq. | ClC=1C=C(C=CC1OC)CC#N | C9H8ClNO
reactant | 1-bromo-2-chloro ethane | 6.05 mmol, 0.51 mL, 3.40 eq. | BrCCCl | C2H4BrCl
reactant | NaOH | [OH-].[Na+]
reactant | 1-Bromo-2-chloro ethane | 3.03 mmol, 0.26 mL, 1.72 eq. | BrCCCl | C2H4BrCl
reactant | water | 20 mL | O | H2O
reactant | water | 5 mL | O | H2O
catalyst | benzyltriethylammonium chloride | 0.04 mmol, 10 mg, 0.02 eq. | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | 1-(3-chloro-4-methoxy-phenyl)-cyclopropanecarboxylic acid | ClC=1C=C(C=CC1OC)C1(CC1)C(=O)O | C11H11ClO3
